US06753334B2
Preparation of 2,5-dichlorophenylhydrazine oxalic acid Intermediate
To a 500 ml flask under a nitrogen atmosphere, concentrated HCl (180 ml, 32%, 10.17 M, 1.83 moles) was charged and cooled down to −2 to 0° C. 2,5-Dichloroaniline (30 g, 185 mmoles) was added in one portion as a solid. The acidic suspension was re-cooled to −2 to 0° C. and sodium nitrite (15.3 g, 222 mmoles) dissolved in water (30 ml) was added dropwise to the acidic mixture through an addition funnel over a period of 1 hour at −2 to 0° C. The resulting mixture was kept with stirring for 1 hour at −2 to 0° C. Next, L-ascorbic acid (34.2 g, 194 mmoles) was added portionwise as a solid at −2 to 0° C. The reaction mixture was allowed to come to room temperature (18-20° C.). A thick orange suspension was formed. The reaction mixture was diluted with concentrated HCl (50 ml, 32%, 0.51 moles, 2.7 eq) and water (150 ml) and then filtered. The wet solid was triturated in water (650 ml) at 20-25° C. for 16 hours, filtered, washed with water and dried to constant weight to afford 34 g of crude oxalic acid derivative as a red crystalline solid.

reactant | HCl | 1.83 moles, 10.17 M, 180 ml | Cl | ClH
reactant | 2,5-Dichloroaniline | 185 mmoles, 30 g | ClC1=C(N)C=C(C=C1)Cl | C6H5Cl2N
reactant | sodium nitrite | 222 mmoles, 15.3 g | N(=O)[O-].[Na+]
reactant | L-ascorbic acid | 194 mmoles, 34.2 g | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | HCl | 0.51 moles, 50 ml, 2.7 eq | Cl | ClH
solvent | water | 30 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | 2,5-dichlorophenylhydrazine oxalic acid | 34 g | C(C(=O)O)(=O)O.ClC1=C(C=C(C=C1)Cl)NN | InChI=1S/C6H6Cl2N2.C2H2O4/c7-4-1-2-5(8)6(3-4)10-9;3-1(4)2(5)6/h1-3,10H,9H2;(H,3,4)(H,5,6)
